Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Bloody stools
 
Major Surgical or Invasive Procedure:
___ colonoscopy

 
History of Present Illness:
Ms. ___ is an ___ -year-old woman with multiple 
comorbidities including a history of stroke, paraesophageal 
hernia, gastritis and H. pylori s/p treatment, iron def anemia 
who presented on ___ with a second episode of GI 
bleeding. Patient was initially admitted at ___ on 
___ for presumed diverticular bleed, which was managed 
conservatively and ceased spontaneously. At ___ she underwent 
an upper endoscopy and colonoscopy on ___. The upper 
endoscopy revealed a large intrathoracic stomach and mild 
nonspecific diffuse gastritis without a source of bleeding. The 
colonoscopy revealed multiple small and large diverticula in the 
sigmoid colon and descending colon along with internal 
hemorrhoids. It was felt that the patient had a presumed 
diverticular bleed. She had a Hct drop duringthis admission from 
40 to 32, that was asymptomatic and did not require PRBC 
transfusion. The GI bleeding stopped spontaneously and the 
patient was subsequently discharged.  

Since discharge, she has been doing well until ___ when she 
experienced an episode of bright red blood mixed with stool. She 
subsequently presented to ___ emergency room. She 
was admitted to the medical floor and experienced a few more 
episodes of bright red blood per rectum mixed with dark clots. 
She was subsequently transferred to the ICU. According to the 
staff, she has had about 10 episodes of bright red blood per 
rectum mixed with dark clots. The patient denies any abdominal 
pain, chest pain, shortness of breath, nausea, or vomiting. She 
had a Hct drop from 34 to 30 and received 2 units of PRBC. 

A tagged RBC scan was performed, which revealed vigorous bleed 
located in the descending colon.  Vital signs remained stable 
though patient tachycardic high ___ low 100s despite 
beta-blockade.  Central venous catheter was placed, and had 
total of 2u pRBCs transfused overall. Given ongoing rectal 
bleeding, passage of clots, and identification of source by 
tagged RBC scan, decision was made to transfer patient for 
potential arteriogram and embolization.

Most recent labs from ___ at ___ showed H/H 10.6/30.6 from 
11.6/34.4 from ___. wbc 11.9, plt 264, BUN 16, Cr 0.9, Lip 25, 
AST 36, ALT 33, T bili 0.5, Alkp 99. 

The patient was also noted to have asymptomatic bacteriuria on 
admission and antibiotics were held pending urine culture 
results. 
 
On arrival to the MICU, the patient c/o of fatigue from lack of 
sleep. She denies any abdominal pain, chest pain, SOB, 
lightheadedness, or palpitations. She takes an aspirin 81mg QD 
given a recent stroke, denies recent NSAID use or alcohol use. 
She did not have evidence  of dark red blood per rectum today. 

 
Past Medical History:
Anemia
atrophic gastritis
COPD
Diverticulosis
Hypothyroidism
Osteoporosis 
History of CVA
Hyperlipidemia
HTN
Prior stroke: on aspirin for prior stroke in ___. 
 
Social History:
___
Family History:
-Cannot recall family history in parents
-___ medical problems in children 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals- T: 98.7 BP: 109/70 P: 113 109/70 R: 24 O2:  94% RA
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, EOMI in intact
NECK: supple, right CVL in place 
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi , decreased breath sounds throughout
CV: irregular, tachycardic, no rubs or gallops appreciated 
ABD: soft, non-tender, non-distended, rebound tenderness or 
guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: ecchymosis on RUE 

DISCHARGE PHYSICAL EXAM:
Vitals: Tm: 97.6 BP: ___ P: 99 R: 18 O2 Sat: 98% 
GENERAL - Alert, interactive, well-appearing in NAD  
HEENT - PERRLA, EOMI, sclerae anicteric, MMM
HEART - RRR, nl S1-S2, no MRG  
LUNGS - CTAB  
ABDOMEN - NABS, soft/NT/ND, no masses  
EXTREMITIES - WWP, no c/c 
NEURO - awake, A&Ox3 

 
Pertinent Results:
ADMISSION LABS:
___ 08:31AM BLOOD WBC-8.4 RBC-3.54* Hgb-10.6* Hct-32.3* 
MCV-91 MCH-29.9 MCHC-32.8 RDW-17.2* Plt ___
___ 08:31AM BLOOD ___ PTT-28.0 ___
___ 08:31AM BLOOD Glucose-96 UreaN-19 Creat-0.6 Na-139 
K-3.6 Cl-102 HCO3-29 AnGap-12
___ 08:31AM BLOOD Calcium-8.1* Phos-2.9 Mg-2.0
___ 05:34AM BLOOD Albumin-2.4* Calcium-7.4* Phos-2.2* 
Mg-2.1

CBC:
___ 05:20AM BLOOD WBC-6.7 RBC-3.02* Hgb-8.8* Hct-27.2* 
MCV-90 MCH-29.3 MCHC-32.5 RDW-18.1* Plt ___
___ 09:53PM BLOOD Hgb-8.5* Hct-26.6*
___ 03:00PM BLOOD Hgb-9.1* Hct-28.3*
___ 05:30AM BLOOD WBC-4.9 RBC-3.10* Hgb-8.8* Hct-27.5* 
MCV-89 MCH-28.4 MCHC-32.0 RDW-18.7* Plt ___
___ 11:20PM BLOOD WBC-5.7 RBC-3.14* Hgb-9.0* Hct-27.7* 
MCV-88 MCH-28.5 MCHC-32.3 RDW-18.7* Plt ___
___ 03:45PM BLOOD WBC-6.0 RBC-3.24*# Hgb-9.3*# Hct-28.7*# 
MCV-89 MCH-28.8 MCHC-32.5 RDW-18.5* Plt ___
___ 05:34AM BLOOD WBC-5.2 RBC-2.35* Hgb-6.9* Hct-21.4* 
MCV-91 MCH-29.4 MCHC-32.3 RDW-18.1* Plt ___
___ 11:30PM BLOOD WBC-6.9 RBC-2.56* Hgb-7.4* Hct-23.4* 
MCV-91 MCH-28.8 MCHC-31.6 RDW-17.7* Plt ___
___ 04:00PM BLOOD WBC-9.0 RBC-3.03* Hgb-8.9* Hct-27.6* 
MCV-91 MCH-29.4 MCHC-32.1 RDW-18.0* Plt ___
___ 02:58AM BLOOD WBC-9.8 RBC-3.12* Hgb-9.2* Hct-29.1* 
MCV-93 MCH-29.6 MCHC-31.8 RDW-17.6* Plt ___
___ 08:15PM BLOOD WBC-11.2* RBC-3.21* Hgb-9.3* Hct-29.6* 
MCV-92 MCH-29.0 MCHC-31.5 RDW-17.5* Plt ___
___ 04:30PM BLOOD WBC-9.1 RBC-3.30* Hgb-9.8* Hct-30.2* 
MCV-91 MCH-29.8 MCHC-32.7 RDW-17.4* Plt ___
___ 12:32PM BLOOD WBC-8.9 RBC-3.35* Hgb-10.0* Hct-30.5* 
MCV-91 MCH-29.9 MCHC-32.8 RDW-17.3* Plt ___
___ 08:31AM BLOOD WBC-8.4 RBC-3.54* Hgb-10.6* Hct-32.3* 
MCV-91 MCH-29.9 MCHC-32.8 RDW-17.2* Plt ___

HEMOLYSIS LABS:
___ 05:34AM BLOOD Ret Aut-4.6*
___ 05:34AM BLOOD LD(LDH)-145 TotBili-0.2 DirBili-0.1 
IndBili-0.1
___ 05:34AM BLOOD Hapto-134

IMAGING:
___ CXR
Very low lung volumes.  Right internal jugular vein catheter, 
the tip projects over the cavoatrial junction. Extensive 
bilateral parenchymal opacities, caused by a huge hiatal hernia 
and subsequent areas of atelectasis. Old healed right rib 
fractures. Currently no acute process in the lung parenchyma. 

___ CTA ABD PELVIS
1. Massive hiatal hernia with intrathoracic stomach and 
containing 
nonobstructed loops of large bowel and portions of the pancreas. 
Submucosal edema within the antrum of the stomach with adjacent 
fluid noted raising concern for gastritis. Differential includes 
infectious, ischemic, and inflammatory etiologies. 
2. No active extravasation of contrast identified. 
3. Hyperemia of the bladder wall with thickened thought to 
reflect a cystitis. 
4. Compression deformities of indeterminate age of T12 and L1. 
5. Focal hypodensity at the uncinate process of the pancreas. A 
MRCP can be obtained for further evaluation for better 
characterization. 

___ ECG
Sinus tachycardia. Low limb lead voltage. Wandering baseline and 
baseline 
artifact. Frequent atrial ectopy. No previous tracing available 
for 
comparison.  

MRSA SCREEN (Final ___:    No MRSA isolated. 

___ 9:34 am URINE      Source: Catheter. 
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of 2g every 8h. 
      PSEUDOMONAS AERUGINOSA.    10,000-100,000 ORGANISMS/ML.. 
      ESCHERICHIA COLI.    10,000-100,000 ORGANISMS/ML.. 
         PRESUMPTIVE IDENTIFICATION.  ___ MORPHOLOGY. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of 2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |          PSEUDOMONAS AERUGINOSA
                             |          |          ESCHERICHIA 
COLI
                             |          |          |   
AMPICILLIN------------   <=2 S                   4 S
AMPICILLIN/SULBACTAM--   <=2 S                 <=2 S
CEFAZOLIN-------------   <=4 S                 <=4 S
CEFEPIME--------------   <=1 S       16 I      <=1 S
CEFTAZIDIME-----------   <=1 S        4 S      <=1 S
CEFTRIAXONE-----------   <=1 S                 <=1 S
CIPROFLOXACIN---------<=0.25 S      =>4 R   <=0.25 S
GENTAMICIN------------   <=1 S        4 S      <=1 S
MEROPENEM-------------<=0.25 S        4 I   <=0.25 S
NITROFURANTOIN--------    32 S                  32 S
PIPERACILLIN/TAZO-----   <=4 S       16 S      <=4 S
TOBRAMYCIN------------   <=1 S      <=1 S      <=1 S
TRIMETHOPRIM/SULFA----   <=1 S                 <=1 S

___ 09:34AM URINE Color-Yellow Appear-Clear Sp ___
___ 09:34AM URINE Blood-MOD Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-40 Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
___ 09:34AM URINE RBC-23* WBC-41* Bacteri-FEW Yeast-NONE 
Epi-1

DISCHARGE LABS:
___ 05:20AM BLOOD WBC-6.7 RBC-3.02* Hgb-8.8* Hct-27.2* 
MCV-90 MCH-29.3 MCHC-32.5 RDW-18.1* Plt ___
___ 05:20AM BLOOD Glucose-110* UreaN-8 Creat-0.7 Na-139 
K-3.7 Cl-106 HCO3-26 AnGap-11
___ 05:20AM BLOOD Calcium-7.5* Phos-2.6* Mg-1.8

___ COLONOSCOPY
Findings:  
Contents: Old blood and blood clots were seen in the sigmoid 
colon, less in descending colon. Transverse colon was free of 
blood.  
Mucosa: Normal mucosa was noted. No evidence of AVM seen.  
Excavated Lesions Multiple severe non-bleeding diverticula with 
mixed openings were seen in the sigmoid colon and descending 
colon. No evidence of active bleeding. No obvious blood clots 
were seen any diverticuli.   
Impression: Diverticulosis of the sigmoid colon and descending 
colon
Blood in the sigmoid and descending colon
Normal mucosa in the colon
Otherwise normal colonoscopy to hepatic flexture 

 
Brief Hospital Course:
___ with history of diverticulosis, COPD, iron deficiency 
anemia, h.pylori, and prior stroke transferred from ___ 
to ___ ICU for management of diverticular bleed which 
stabilized after total of 3 units pRBC without need for 
intervention.
 
# ACUTE BLOOD LOSS ANEMIA, DUE TO DIVERTICULAR BLEED: She was 
transferred from ___ ICU to ___ ICU for her second 
diverticular bleed in the hopes of receiving ___ embolization of 
the bleed. Prior to arrival she received two units of blood at 
___ and had a positive tagged RBC scan for lower GI bleed, 
but at ___ her blood loss slowed to the point that CTA on 
arrival was negative and embolization was not possible. She was 
transferred to the regular medical floor from the ICU. Her blood 
counts continued to drop her first two days on the floor and she 
was given one more unit of blood cells for Hgb 6.9 with 
appropriate bump to 8.8 on discharge. Blood loss subsequently 
stopped and blood counts stabilized. She had several small 
frankly blood stools (<50cc) which stopped during last 2 days of 
admission. Given no further bleeding and stable blood counts and 
vitals, she was deemed safe for discharge. Given recurrent 
bleeding, colorectal surgery was discussed. Patient declined 
colorectal surgery consultation given her old age and 
comorbidities.

# Asymptomatic bacteriuria: Urine culture on arrival at ___ 
(from ___ catheter placed at ___ returned growing 
pseudomonas and E. Coli. Pt was asymptomatic throughout 
admission with no fever, leukocytosis, dysuria, or other 
symptoms. Note both E. Coli and Pseudomonas found on Ucx 
sensitive to CEFTAZIDIME, tobramycin, piperacillin/tazobactam, 
and Gentamicin. She was not treated as she was asymptomatic. 
Organisms are likely from colonization.

# Borderline tachycardia: HR in 80-90s throughout stay and 
occasionally up to 120s with ambulation. She required several 
liters of IVF during admission. Tachycardia likely secondary to 
volume depletion from GI bleed, rebound tachycardia from 
admission holding of home metoprolol, and deconditioning. CXR on 
day of discharge showed low lung volumes, but no change from 
admission CXR (no signs of CHF). Multiple EKG's ordered during 
admission for concern of afib, all showed NSR, notably pt does 
not have history of afib and HR appeared consistently regular on 
exam. Her home doses of furosemide and metoprolol were restarted 
prior to discharge.

# Large hiatal hernia- stable.

# Contact: Daughter ___ ___   
# Code: DNR, okay to intubate

==================
TRANSITIONAL ISSUES:
-Focal hypodensity at the uncinate process of the pancreas. A 
MRCP can be obtained for further evaluation for better 
characterization. 
-Asymptomatic bacteriuria: Full results of UCx in DC summary, pt 
reports no symptoms, VS stable throughout stay. UCx shows 
pseudomonas and E. Coli. Note both sensitive to CEFTAZIDIME, 
tobramycin, piperacillin/tazobactam, and Gentamicin.)
-Follow up with PCP and GI for diverticular bleed. Pt refused 
Colorectal surgery consultation.
-Home losartan 25mg daily stopped due to normal BPs and GI 
bleeding. Consider restarting if she becomes hypertensive 
(>150/90 per JNC 8 guidelines)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Levothyroxine Sodium 50 mcg PO DAILY 
4. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
5. Tiotropium Bromide 1 CAP IH DAILY 
6. Furosemide 20 mg PO DAILY 
7. Montelukast 10 mg PO DAILY 
8. FoLIC Acid 1 mg PO DAILY 
9. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB, WHEEZING 
10. Losartan Potassium 25 mg PO DAILY 
11. Metoprolol Tartrate 12.5 mg PO BID 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 40 mg PO DAILY 
3. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
4. FoLIC Acid 1 mg PO DAILY 
5. Furosemide 20 mg PO DAILY 
6. Levothyroxine Sodium 50 mcg PO DAILY 
7. Metoprolol Tartrate 12.5 mg PO BID 
8. Montelukast 10 mg PO DAILY 
9. Tiotropium Bromide 1 CAP IH DAILY 
10. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB, WHEEZING 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
PRIMARY:
-Acute blood loss anemia
-Diverticular bleed
-Asymptomatic bacteriuria

SECONDARY:
-Chronic obstructive pulmonary disease
-Hypertension
-History of stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___. You were 
transferred to our intensive care unit from ___ for 
your second diverticular bleed in the hopes of embolizing the 
bleed. You received two units of blood at ___ and your blood 
loss slowed by the time of your arrival at ___ such that it 
was not necessary to perform the embolization. You were 
transferred to the regular medical floor from the ICU where your 
blood counts continued to drop slowly and you recieved one unit 
of blood cells. Your bleeding then stabilized and your blood 
counts stabilized. 

You were deconditioned from the hospital stay and will require a 
brief stay at rehab to recover your strength.
 
Followup Instructions:
___